US05525602
A solution of 3.88 g of (E)-6-(4-carboxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid and 0.2 g of p-toluenesulfonic acid in methanol (60 ml) is stirred at room temperature for 8 hours. The solvent is evaporated under reduced pressure. The residue is dissolved in ethyl acetate, and this solution washed twice with water, once with brine, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure to give methyl (E)-6-(4-carboxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | (E)-6-(4-carboxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | 3.88 g | C(=O)(O)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)CC)C)=O | C19H22O6
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 60 ml | CO | CH4O
product | methyl (E)-6-(4-carboxy-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | C(=O)(O)C1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OC)\C)CC)C)=O | C20H24O6
